US07057051B2
Step B: 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)ethane-1,2-dione
To a solution of 100 g (0.33 mol) of 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)ethanone in 1 L of DMSO, 75 g (0.42 mol) of NBS was added and the mixture was stirred over a weekend. The reaction was poured into 8 L of water and stirred for 30 min. The yellow solid formed was filtered and dried. This solid was purified by passing through a plug of 1 Kg of silica gel using hexane and 5% EtOAc-hexane to isolate the title compound. 1H NMR: (500 MHz, CDCl3): δ 7.4–8.0 (m, 7H).

reactant | 2-(4-chlorophenyl)-1-(2,4-dichlorophenyl)ethanone | 0.33 mol, 100 g | ClC1=CC=C(C=C1)CC(=O)C1=C(C=C(C=C1)Cl)Cl | C14H9Cl3O
reactant | NBS | 0.42 mol, 75 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 8 L | O | H2O
solvent | DMSO | 1 L | CS(=O)C | C2H6OS
product | 1-(4-Chlorophenyl)-2-(2,4-dichlorophenyl)ethane-1,2-dione | ClC1=CC=C(C=C1)C(C(=O)C1=C(C=C(C=C1)Cl)Cl)=O | C14H7Cl3O2
